US08242175B2
(E)-3-(4-{(E)-3-[4-(4-Acetyl-piperazin-1-yl)-phenyl]-3-oxo-propenyl}-phenyl)-acrylic acid (mixture of potassium salt and hydrochloric salt, 200 mg) was dissolved in THF (5 ml), DMF (5 ml) and TEA (0.126 ml, 0.908 mmol), then HOBT (122 mg, 0.908 mmol), EDC (173 mg, 0.908 mmol) and NH2OTHP (63.7 mg, 0.545 mmol) were added to the resulting solution. The mixture was stirred overnight at room temperature and then partitioned between water and AcOEt. The organic phase was dried over Na2SO4 and evaporated in vacuo. The crude mixture was purified by silica gel chromatography (eluent: DCM/MeOH/NH4OH 96:4:0.2). The resulting product was dissolved in DCM and treated with HCl/Et2O for 1 h. The precipitate was filtered and crystallized from H2O/CH3CN/DMSO to give 20 mg of (E)-3-(4-{(E)-3-[4-(4-acetyl-piperazin-1-yl)-phenyl]-3-oxo-propenyl}-phenyl)-N-hydroxy-acrylamide hydrochloride.

reactant | (E)-3-(4-{(E)-3-[4-(4-Acetyl-piperazin-1-yl)-phenyl]-3-oxo-propenyl}-phenyl)-acrylic acid | 200 mg | C(C)(=O)N1CCN(CC1)C1=CC=C(C=C1)C(/C=C/C1=CC=C(C=C1)/C=C/C(=O)O)=O | C24H24N2O4
reactant | HOBT | 0.908 mmol, 122 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | EDC | 0.908 mmol, 173 mg
reactant | NH2OTHP | 0.545 mmol, 63.7 mg | NOC1OCCCC1 | C5H11NO2
solvent | THF | 5 ml | C1CCOC1 | C4H8O
solvent | DMF | 5 ml | CN(C)C=O | C3H7NO
product | (E)-3-(4-{(E)-3-[4-(4-acetyl-piperazin-1-yl)-phenyl]-3-oxo-propenyl}-phenyl)-N-hydroxy-acrylamide hydrochloride | 20 mg | Cl.C(C)(=O)N1CCN(CC1)C1=CC=C(C=C1)C(/C=C/C1=CC=C(C=C1)/C=C/C(=O)NO)=O | InChI=1S/C24H25N3O4.ClH/c1-18(28)26-14-16-27(17-15-26)22-10-8-21(9-11-22)23(29)12-6-19-2-4-20(5-3-19)7-13-24(30)25-31;/h2-13,31H,14-17H2,1H3,(H,25,30);1H/b12-6+,13-7+;
